US05998452
Preparation of 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-acryloyl-1,3-thiazolidine
To a suspension of 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,3-thiazolidine hydrochloride (1.65 g) obtained in Reference Example 61 in tetrahydrofuran (20 ml) was added triethylamine (1.52 g), and acryloyl chloride (0.63 g) was added thereto at 0° C. The mixture was stirred at that temperature for 3 hours. After completion of the reaction, the reaction mixture was poured into ice-water; and the product was extracted with chloroform. The organic layer was washed successively with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate, and brine, then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; chloroform-methanol, 98:2) to afford 0.93 g (54%) of the title compound as colorless crystals. mp 147-149° C. NMR (CDCl3) (200 MHz) δ: 1.40 (18H, s), 3.0-3.2 (2H, m), 3.8-4.0 (1H, m), 4.2-4.5 (1H, m), 5.20 (1H, brs), 5.5-5.8 (1H, m), 5.9-6.6 (3H, m), 6.98 (2H, brs)

reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,3-thiazolidine hydrochloride | 1.65 g | Cl.C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCCN1
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.63 g | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-acryloyl-1,3-thiazolidine | 0.93 g, 54% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCCN1C(C=C)=O | C20H29NO2S
